US07645789B2
To a solution of 2-fluoro-4-nitro-phenylamine (12 g, 77 mmol) in AcOH (50 mL) was added Br2 (3.9 mL, 77 mmol) dropwise at 0° C. The mixture was stirred at 20° C. for 3 h. The reaction mixture was basified with sat. aq. NaHCO3, and extracted with EtOAc (100 mL×3). The combined organics were dried over anhydrous Na2SO4 and evaporated under vacuum to give 2-bromo-6-fluoro-4-nitro-phenylamine (18 g, 97%). 1H NMR (400 MHz, CDCl3) δ 8.22 (m, 1H), 7.90 (dd, J=2.4, 10.8 Hz, 1H), 4.88 (brs, 2H).

reactant | 2-fluoro-4-nitro-phenylamine | 77 mmol, 12 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | Br2 | 77 mmol, 3.9 mL | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 50 mL | CC(=O)O | C2H4O2
product | 2-bromo-6-fluoro-4-nitro-phenylamine | 18 g, 97% | BrC1=C(C(=CC(=C1)[N+](=O)[O-])F)N | C6H4BrFN2O2
